US08735579B2
5-tert-butyl-2-methoxy-3-nitro-benzyl methanesulphonate
1.20 ml methanesulphonic acid chloride are added to an ice-cooled solution of 3.43 g (5-tert-butyl-2-methoxy-3-nitro-phenyl)-methanol and 2.40 ml triethylamine in 30 ml dichloromethane. The solution is stirred for 2 h while cooling with ice and then diluted with dichloromethane. The dilute solution is washed three times with water and once with saturated aqueous saline solution, dried (MgSO4) and evaporated to dryness.

reactant | methanesulphonic acid chloride | 1.20 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | (5-tert-butyl-2-methoxy-3-nitro-phenyl)-methanol | 3.43 g | C(C)(C)(C)C=1C=C(C(=C(C1)CO)OC)[N+](=O)[O-] | C12H17NO4
reactant | triethylamine | 2.40 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 5-tert-butyl-2-methoxy-3-nitro-benzyl methanesulphonate | CS(=O)(=O)OCC1=C(C(=CC(=C1)C(C)(C)C)[N+](=O)[O-])OC | C13H19NO6S
